US06949542B2
[4-Chloro-5-(isopropyl-methyl-amino)-2-nitro-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from (4,5-dichloro-2-nitro-phenyl)-carbamic acid tert.-butyl ester (Example A20) (5.0 g, 16.3 mmol) and N-isopropyl-methylamine (5.95 g, 81.4 mmol) in DMSO (50 mL) at 75° C. according to the general procedure C. Obtained as a yellow solid (4.07 g, 73%).

reactant | (4,5-dichloro-2-nitro-phenyl)-carbamic acid tert.-butyl ester | 16.3 mmol, 5.0 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])=O | C11H12Cl2N2O4
reactant | N-isopropyl-methylamine | 81.4 mmol, 5.95 g | C(C)(C)NC | C4H11N
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | [4-Chloro-5-(isopropyl-methyl-amino)-2-nitro-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C(C)C)Cl)[N+](=O)[O-])=O | C15H22ClN3O4
